US04062864
3-(Methylamino)-1,2,3,4-tetrahydrocarbazole
A mixture of 17 g. of 3-tosyloxy-1,2,3,4-tetrahydrocarbazole and 25 g. of 40% methylamine in 200 ml. of 2-ethoxyethanol containing 5 g. of sodium bicarbonate was heated on a steam bath for 1 hour then left standing overnight at room temperature. The solvent was removed by distillation and the residue taken up in ether and the mixture filtered. Evaporation of the filtrate gave a residue which crystallized upon trituration with ether. The 3-(methylamino)-1,2,3,4-tetrahydrocarbazole thus obtained melted at 134°-136° C. (corr.).

reactant | 3-tosyloxy-1,2,3,4-tetrahydrocarbazole | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCC=2NC3=CC=CC=C3C2C1 | C19H19NO3S
reactant | methylamine | CN | CH5N
reactant | 2-ethoxyethanol | 5 g | C(C)OCCO | C4H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(Methylamino)-1,2,3,4-tetrahydrocarbazole | CNC1CCC=2NC3=CC=CC=C3C2C1 | C13H16N2
